US05091395
2(d) (E)-4-(2-(3-(1-methylpropoxy)-3-oxo-2-methyl-1-propenyl)phenyl)-1,4-dihydro-2,6-dimethyl-3,5-pyridinedicarboxylic acid diethyl ester M.p. 113°-115°
2(e) (E)-4-(2-(3-Octyloxy-3-oxo-2-methyl-1-propenyl)phenyl)-1,4-dihydro-2,6-dimethyl-3,5-pyridinedicarboxylic acid diethyl ester T.l.c. (methylene chloride/acetone, 100:15) Rf 0.52

reactant | (E)-4-(2-(3-Octyloxy-3-oxo-2-methyl-1-propenyl)phenyl)-1,4-dihydro-2,6-dimethyl-3,5-pyridinedicarboxylic acid diethyl ester | C(C)OC(=O)C1=C(NC(=C(C1C1=C(C=CC=C1)\C=C(\C(=O)OCCCCCCCC)/C)C(=O)OCC)C)C | C31H43NO6
solvent | methylene chloride acetone | C(Cl)Cl.CC(=O)C
product | (E)-4-(2-(3-(1-methylpropoxy)-3-oxo-2-methyl-1-propenyl)phenyl)-1,4-dihydro-2,6-dimethyl-3,5-pyridinedicarboxylic acid diethyl ester | C(C)OC(=O)C1=C(NC(=C(C1C1=C(C=CC=C1)\C=C(\C(=O)OC(CC)C)/C)C(=O)OCC)C)C | C27H35NO6
